### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Maps): add theorems about composition

### PR DESCRIPTION
**Pull request by IvanRenison**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 1]
```diff
@@ -360,6 +360,13 @@ abbrev comp (f' : G' →g G'') (f : G →g G') : G →g G'' :=
 theorem coe_comp (f' : G' →g G'') (f : G →g G') : ⇑(f'.comp f) = f' ∘ f :=
   rfl
 
+theorem comp_assoc (f'' : G'' →g G''') (f' : G' →g G'') (f : G →g G') :
+    f''.comp (f'.comp f) = (f''.comp f').comp f := rfl
+
+theorem comp_id (f : G →g G') : f.comp .id = f := rfl
+
+theorem id_comp (f : G →g G') : .comp Hom.id f = f := rfl
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean]: These should be simp

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 2]
```diff
@@ -456,6 +463,13 @@ abbrev comp (f' : G' ↪g G'') (f : G ↪g G') : G ↪g G'' :=
 theorem coe_comp (f' : G' ↪g G'') (f : G ↪g G') : ⇑(f'.comp f) = f' ∘ f :=
   rfl
 
+theorem comp_assoc (f'' : G'' ↪g G''') (f' : G' ↪g G'') (f : G ↪g G') :
+    f''.comp (f'.comp f) = (f''.comp f').comp f := rfl
+
+theorem comp_refl (f : G ↪g G') : f.comp .refl = f := rfl
+
+theorem refl_comp (f : G ↪g G') : .comp .refl f = f := rfl
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean:564]: Similarly

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 3]
```diff
@@ -631,6 +645,13 @@ abbrev comp (f' : G' ≃g G'') (f : G ≃g G') : G ≃g G'' :=
 theorem coe_comp (f' : G' ≃g G'') (f : G ≃g G') : ⇑(f'.comp f) = f' ∘ f :=
   rfl
 
+theorem comp_assoc (f'' : G'' ≃g G''') (f' : G' ≃g G'') (f : G ≃g G') :
+    f''.comp (f'.comp f) = (f''.comp f').comp f := rfl
+
+theorem comp_refl (f : G ≃g G') : f.comp .refl = f := rfl
+
+theorem refl_comp (f : G ≃g G') : .comp .refl f = f := rfl
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean:753]: again

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 4]
```diff
@@ -424,6 +424,15 @@ abbrev comp (f' : G' →g G'') (f : G →g G') : G →g G'' :=
 theorem coe_comp (f' : G' →g G'') (f : G →g G') : ⇑(f'.comp f) = f' ∘ f :=
   rfl
 
+theorem comp_assoc (f'' : G'' →g G''') (f' : G' →g G'') (f : G →g G') :
+    f''.comp (f'.comp f) = (f''.comp f').comp f := rfl
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean]:
```suggestion
theorem comp_assoc (f : G'' →g G''') (g : G' →g G'') (h : G →g G') :
    f.comp (g.comp f) = (f.comp g).comp h := rfl
```

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 5]
```diff
@@ -424,6 +424,15 @@ abbrev comp (f' : G' →g G'') (f : G →g G') : G →g G'' :=
...
+
+@[simp]
+theorem comp_id (f : G →g G') : f.comp .id = f := rfl
+
+@[simp]
+theorem id_comp (f : G →g G') : .comp Hom.id f = f := rfl
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean]:
```suggestion
theorem id_comp (f : G →g G') : .comp .id f = f := rfl
```

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 6]
```diff
@@ -534,6 +543,15 @@ abbrev comp (f' : G' ↪g G'') (f : G ↪g G') : G ↪g G'' :=
 theorem coe_comp (f' : G' ↪g G'') (f : G ↪g G') : ⇑(f'.comp f) = f' ∘ f :=
   rfl
 
+theorem comp_assoc (f'' : G'' ↪g G''') (f' : G' ↪g G'') (f : G ↪g G') :
+    f''.comp (f'.comp f) = (f''.comp f').comp f := rfl
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean]:
```suggestion
theorem comp_assoc (f : G'' ↪g G''') (g : G' ↪g G'') (h : G ↪g G') :
    f.comp (g.comp h) = (f'.comp g).comp h := rfl
```

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 7]
```diff
@@ -713,6 +731,15 @@ abbrev comp (f' : G' ≃g G'') (f : G ≃g G') : G ≃g G'' :=
 theorem coe_comp (f' : G' ≃g G'') (f : G ≃g G') : ⇑(f'.comp f) = f' ∘ f :=
   rfl
 
+theorem comp_assoc (f'' : G'' ≃g G''') (f' : G' ≃g G'') (f : G ≃g G') :
+    f''.comp (f'.comp f) = (f''.comp f').comp f := rfl
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean]: Maybe use `e\_1`, `e\_2`, `e\_3`?

Comment (IvanRenison) [reply Mathlib/Combinatorics/SimpleGraph/Maps.lean]: I now changed it to `f`, `g` and `h` as in `Hom.comp_assoc`

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Maps.lean]: This is wrong. We don't use `f`, `g`, `h` for isomorphisms in mathlib

**Comment by b-mehta** [comment]
I think Yaël's last comment above is still outstanding, so I'll put this back to awaiting-author

**Comment by IvanRenison** [comment]
@b-mehta first I used `f`, `f'` and `f''` because is the rest of the file uses `f` and `f'`. Should I use `e₁`, `e₂` and `e₃` as Yaël suggested, which is completely different to the rest of the file, or should I go back to using `f`, `f'` and `f''`? Or what about  `f₁`, `f₂` and `f₃`?

**Review by b-mehta — COMMENTED** [review]
I think it's okay to use `f` here, since the file already does that, and renames can happen in future PRs.

Thanks!

bors merge
